US06531502B1
A mixture of 4 g of 6-(morpholin-4-yl)-2-oxindole, 3.75 g of 3-(2-formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)propionic acid, and 1.8 mL of piperidine in ethanol (60 mL) was refluxed for 6 hrs. The reaction mixture was concentrated and acidified with 6 N hydrochloric acid to pH 6. The precipitate was collected by filtration, washed once with water, twice with ethyl acetate and twice with methanol to give 2.6 g of 3-[2-(6-Morpholin-4-yl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4,5,6,7-tetrahydro-1H-indol-3-yl]propionic acid as an orange solid (34% yield).

reactant | 6-(morpholin-4-yl)-2-oxindole | 4 g | N1(CCOCC1)C1=CC=C2CC(NC2=C1)=O | C12H14N2O2
reactant | 3-(2-formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)propionic acid | 3.75 g | C(=O)C=1NC=2CCCCC2C1CCC(=O)O | C12H15NO3
reactant | piperidine | 1.8 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 3-[2-(6-Morpholin-4-yl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4,5,6,7-tetrahydro-1H-indol-3-yl]propionic acid | 2.6 g, 34% yield | N1(CCOCC1)C1=CC=C2C(C(NC2=C1)=O)=CC=1NC=2CCCCC2C1CCC(=O)O | C24H27N3O4
